US09278085B2
Ceric ammonium nitrate (270 mg, 0.498 mmol) was dissolved into H2O (0.75 mL) and AcCN (1.5 mL) and the solution chilled to 0° C. 77.9 mg of (E)-7-(2,5-dimethoxy-3,4,6-trimethylphenyl)-5-methylhept-5-enyl acetate (0.223 mmol) in AcCN (1.5 mL) was added over 2 minutes and the dark orange solution stirred for 0.5 h. H2O (3 mL) and EtOAc (3 mL) were then added, the layers separated and the organics washed 2×2 mL H2O. The combined aqueous phase was back extracted 3×5 mL EtOAc and the combined organics washed 2×5 mL saturated NaCl solution and dried over anhydrous Na2SO4. The resulting yellow liquid was concentrated to a yellow oil and subjected to flash chromatography, which yielded 25.8 mg of (E)-5-methyl-7-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)hept-5-enyl acetate as a bright yellow oil (36.2%). 1H NMR (400 MHz, CDCl3) d 4.95 (t, J=6.4 Hz, 1H), 4.02 (t, J=6.8 Hz, 2H), 3.19 (d, J=6.8 Hz, 2H), 2.01 (m, 11H), 1.73 (s, 3H), 1.55 (m, 2H) 1.42 (m, 2H). 13C NMR (100 MHz, CDCl3) d 187.9, 187.0, 171.1, 143.0, 140.4, 140.3, 136.7, 119.9, 64.4, 39.1, 28.1, 25.6, 24.1, 20.9, 16.1, 12.3, 12.1.

reactant | H2O | 0.75 mL | O | H2O
reactant | (E)-7-(2,5-dimethoxy-3,4,6-trimethylphenyl)-5-methylhept-5-enyl acetate | 0.223 mmol, 77.9 mg | C(C)(=O)OCCCC\C(=C\CC1=C(C(=C(C(=C1C)OC)C)C)OC)\C | C21H32O4
reactant | H2O | 3 mL | O | H2O
reactant | EtOAc | 3 mL | CCOC(=O)C | C4H8O2
solvent | AcCN | 1.5 mL | C(=O)(C)C#N | C3H3NO
solvent | AcCN | 1.5 mL | C(=O)(C)C#N | C3H3NO
product | (E)-5-methyl-7-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)hept-5-enyl acetate | 25.8 mg, 36.2% | C(C)(=O)OCCCC\C(=C\CC1=C(C(C(=C(C1=O)C)C)=O)C)\C | C19H26O4
